US05238837
A mixture of methyl 20-phthalimidoeicosanoate (5.0 g, 10.6 mmoles), 100 ml of ethanol, 80% hydrazine hydrate (1.0 ml, 15.9 mmoles) was refluxed for 9 hours. After the addition of 26.5 ml of 6N aqueous hydrochloric acid, the reaction mixture was further refluxed for 1 hour. The insoluble matter that formed was removed by filtration. The filtrate was concentrated under reduced pressure. To the residue were added 70 ml of ethanol and 42.4 ml of 1N aqueous sodium hydroxide solution, and the obtained reaction mixture was refluxed for 16 hours. The reaction mixture was neutralized by adding 6N aqueous hydrochloric acid solution under ice-cooled condition. The precipitates that formed were collected by filtration and recrystallized from ethanolacetic acid-water, to give 20-aminoeicosanoic acid (2.50 g, 72%) having the following properties.

reactant | methyl 20-phthalimidoeicosanoate | 10.6 mmoles, 5.0 g | C1(C=2C(C(N1CCCCCCCCCCCCCCCCCCCC(=O)OC)=O)=CC=CC2)=O | C29H45NO4
reactant | hydrazine hydrate | 15.9 mmoles, 1.0 ml | O.NN
reactant | hydrochloric acid | 6N, 26.5 ml | Cl | ClH
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 20-aminoeicosanoic acid | 2.50 g, 72% | NCCCCCCCCCCCCCCCCCCCC(=O)O | C20H41NO2
